US09328134B2
A solution of (((2S,3R,4S,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-2-(iodomethyl)tetrahydro-2H-pyran-3-yl)oxy)(tert-butyl)dimethylsilane (4.0 g, 5.8 mmol, 1.0 equiv) in anhydrous triethyl phosphite (40 mL) was heated to 160° C. in a 100 mL sealed tube for 16 hours. The solvent was removed in vacuo and the resulting product was purified by silica gel chromatography, eluting with 30% EtOAc in petroleum ether, to give diethyl (((2S,3R,4S,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-((tert-butyldimethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)methyl)phosphonate as a pale yellow oil (3.36 g, 83%). 1H NMR (300 MHz, CDCl3) δ 7.37-7.22 (m, 13H), 7.06 (dd, J=6.6, 3.0 Hz, 2H), 4.90-4.72 (m, 3H), 4.67-4.61 (m, 1H), 4.49 (d, J=4.3 Hz, 1H), 4.46 (d, J=2.9 Hz, 1H), 4.40 (d, J=7.1 Hz, 1H), 4.17-4.03 (m, 4H), 3.93-3.85 (m, 1H), 3.77 (d, J=9.9 Hz, 1H), 3.72-3.61 (m, 3H), 3.55-3.47 (m, 1H), 2.27-2.13 (m, 2H), 1.29 (td, J=7.1, 1.2 Hz, 6H), 0.90 (s, 9H), 0.09 (s, 3H), 0.07 (s, 3H). ESI (M+1) 699.2; calc for C38H55O8PSi 698.3.

reactant | (((2S,3R,4S,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-2-(iodomethyl)tetrahydro-2H-pyran-3-yl)oxy)(tert-butyl)dimethylsilane | 5.8 mmol, 4.0 g, 1.0 equiv | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)CI)O[Si](C)(C)C(C)(C)C | C34H45IO5Si
reactant | triethyl phosphite | 40 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl (((2S,3R,4S,5R,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-((tert-butyldimethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)methyl)phosphonate | 3.36 g, 83% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)CP(OCC)(OCC)=O)O[Si](C)(C)C(C)(C)C | C38H55O8PSi
